US04141990
Using the method described in Example 1, 2,4-dimethylphenol is reacted with alpha-bromoacetophenone to provide alpha-(2,4-dimethylphenoxy)acetophenone.

reactant | 2,4-dimethylphenol | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | alpha-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | alpha-(2,4-dimethylphenoxy)acetophenone | CC1=C(OCC(=O)C2=CC=CC=C2)C=CC(=C1)C | C16H16O2
